US08476434B2
Synthesis of 2-(2-Dimethylamino-1,1-dimethyl-ethyl)-5-trifluoromethyl-phenylamine
A 50 mL round-bottom flask containing dimethyl-[2-methyl-2-(2-nitro-4-trifluoromethyl-phenyl)-propyl]-amine (0.61 g, 2.1 mmol) was charged with 10% palladium on carbon (0.23 g, 0.21 mmol) under nitrogen. Ethyl acetate (5 mL) and methanol (5 mL) were added sequentially via syringe. The atmosphere was replaced with hydrogen, and the reaction was stirred rapidly under 1 atm hydrogen overnight. After approximately 12 h, the reaction was flushed with nitrogen and filtered through a pad of celite, rinsing with methanol. Removal of the solvent in vacuo gave the title compound as a clear and colorless oil. MS m/z 261=[M+H]+. Calc'd for C13H19F3N2: 260.30.

reactant | dimethyl-[2-methyl-2-(2-nitro-4-trifluoromethyl-phenyl)-propyl]-amine | 2.1 mmol, 0.61 g | CN(CC(C)(C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])C)C | C13H17F3N2O2
reactant | Ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.21 mmol, 0.23 g | [Pd] | Pd
solvent | methanol | 5 mL | CO | CH4O
product | 2-(2-Dimethylamino-1,1-dimethyl-ethyl)-5-trifluoromethyl-phenylamine | CN(CC(C)(C)C1=C(C=C(C=C1)C(F)(F)F)N)C | C13H19F3N2
